US07488740B2
10. 4-Chloro-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridine
2-Methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridin-4-ol (191 mg, 0.569 mmol) is dissolved in a solution of chloroform (15 mL), POCl3 (0.212 mL, 2.28 mmol) and 2,6-lutidine (0.256 mL, 2.28 mmol). The reaction is heated at reflux overnight. The mixture is concentrated under reduced pressure. The resulting residue is dissolved in EtOAc (50 mL) and extracted with water (50 mL), saturated NaHCO3(aq) (50 mL) and brine (50 mL). The organic extract is dried over Na2SO4 and the solvent removed under reduced pressure. The crude product is purified by column chromatography on silica gel eluting with hexanes/EtOAc (1:1) to yield the title compound as a white solid.

reactant | 2-Methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridin-4-ol | 0.569 mmol, 191 mg | COCC1=NC2=NC(=CC=C2C(=C1)O)C1=NC=CC=C1C(F)(F)F | C16H12F3N3O2
reactant | POCl3 | 2.28 mmol, 0.212 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-lutidine | 2.28 mmol, 0.256 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloro-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridine | ClC1=CC(=NC2=NC(=CC=C12)C1=NC=CC=C1C(F)(F)F)COC | C16H11ClF3N3O
